US07414060B2
6-Methyl-3-(1-methyl-1H-pyrazol-4-ylamino)-pyridine-2-carboxylic acid (5-fluoro-pyridin-2-yl)-amide
The title compound, was prepared from 6-Methyl-3-(1-methyl-1H-pyrazol-4-ylamino)-pyridine-2-carboxylic acid ethyl ester and 2-Amino-5-fluoropyridine in accordance with the general method of Example 78, step 2 to yield the final compound as a yellow crystalline solid, MS (ISP): m/e=327.1 (M+H+).

reactant | 6-Methyl-3-(1-methyl-1H-pyrazol-4-ylamino)-pyridine-2-carboxylic acid ethyl ester | C(C)OC(=O)C1=NC(=CC=C1NC=1C=NN(C1)C)C | C13H16N4O2
reactant | 2-Amino-5-fluoropyridine | NC1=NC=C(C=C1)F | C5H5FN2
product | 6-Methyl-3-(1-methyl-1H-pyrazol-4-ylamino)-pyridine-2-carboxylic acid (5-fluoro-pyridin-2-yl)-amide | FC=1C=CC(=NC1)NC(=O)C1=NC(=CC=C1NC=1C=NN(C1)C)C | C16H15FN6O
